US07109219B2
N1-Methyl-5-(2-amino-5-cyano-4-pyridyl)oxy-1H-1-indolecarboxamide
6-Amino-4-(1H-5-indolyloxy)nicotinonitrile (63 mg, 0.252 mmol) was dissolved in N,N-dimethylformamide (1 ml); and sodium hydride (60% in oil, 11.6 mg, 0.29 mmol) was gradually added thereto while stirring at room temperature. After the reaction mixture was stirred for 30 minutes, phenyl N-propylcarbamate (49.5 mg, 0.277 mmol) was added thereto; and the reaction mixture was stirred for 3 hours. A saturated aqueous solution of ammonium chloride was added thereto; this was subjected to extraction with ethyl acetate, and dried over anhydrous sodium sulfate. This solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate-methanol) to yield the title compound (12 mg) and N1-methyl-5-(2-amino-5-cyano-4-pyridyl)oxy-1H-1-indolecarboxamide (17 mg).

reactant | 6-Amino-4-(1H-5-indolyloxy)nicotinonitrile | 0.252 mmol, 63 mg | NC1=NC=C(C#N)C(=C1)OC=1C=C2C=CNC2=CC1 | C14H10N4O
reactant | sodium hydride | 0.29 mmol, 11.6 mg | [H-].[Na+]
reactant | phenyl N-propylcarbamate | 0.277 mmol, 49.5 mg | C(CC)NC(OC1=CC=CC=C1)=O | C10H13NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N1-methyl-5-(2-amino-5-cyano-4-pyridyl)oxy-1H-1-indolecarboxamide | 17 mg | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1C#N)N | C16H13N5O2
